US09227973B2
Step D: Methyl 9-hydroxy-6-phenyl-5,6-dihydrooxepino[4,5-b]pyridine-8-carboxylate
A solution of potassium tert-butoxide in THF (1M, 10 mL, 10 mmol), was added dropwise to a solution of methyl 3-(2-(2-methoxy-2-oxoethoxy)-2-phenylethyl)picolinate (3.0 g, 9.1 mmol) in xylene (20 mL) at 28° C. The resulting mixture was heated at 82° C. for 2 h, then cooled and concentrated. The residue was partitioned between ethyl acetate and saturated aqueous ammonium chloride solution. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by flash chromatography on silica gel eluting with 40% ethyl acetate in petroleum ether to give the title compound. MS: m/z=298.2 (M+1).

reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 10 mmol, 1M, 10 mL | C1CCOC1 | C4H8O
reactant | methyl 3-(2-(2-methoxy-2-oxoethoxy)-2-phenylethyl)picolinate | 9.1 mmol, 3.0 g | COC(COC(CC=1C(=NC=CC1)C(=O)OC)C1=CC=CC=C1)=O | C18H19NO5
solvent | xylene | 20 mL | C=1(C(=CC=CC1)C)C | C8H10
product | Methyl 9-hydroxy-6-phenyl-5,6-dihydrooxepino[4,5-b]pyridine-8-carboxylate | OC1=C(OC(CC=2C1=NC=CC2)C2=CC=CC=C2)C(=O)OC | C17H15NO4
